US07378448B2
Add a solution of oxone (0.18 g, 0.29 mmol) in water (2 mL) was added to a solution of 4-[4-(phenethylamino-methyl)-phenylsulfanyl]-benzamide (50 mg, 0.14 mmol), 1N aqueous hydrochloric acid (0.14 mL), and tetrahydrofuran (2 mL) at room temperature. Stir overnight at room temperature, pour into saturated aqueous sodium bisulfite, and then extract with ethyl acetate (3×50 mL). The combined ethyl acetate extracts were washed with saturated aqueous sodium bicarbonate solution, water, and brine then dried over sodium chloride/magnesium sulfate. Filter, and concentrate on a rotary evaporator to yield 100 mg of the crude product. The crude product is purified by flash column chromatography on silica gel eluting with (0.2% conc. ammonium hydroxide/2% ethanol) to (2% conc. ammonium hydroxide/20% ethanol) in chloroform to yield 4-[4-(Phenethylamino-methyl)-benzenesulfonyl]-benzamide, (15 mg): 1H NMR (DMSO-D6, 300.00 MHz): 9.06-9.01 (m, 1H), 8.50 (dd, 1H, J=8.1, 2.1 Hz), 8.31 (dd, 2H, J=8.2, 0.7 Hz), 7.96-7.81 (m, 3H), 7.61 (d, 2H, J=8.2 Hz), 7.32-7.15 (m, 6H), 3.88-3.82 (m, 2H), 2.78-2.71 (m, 4H); m/z=396.03(M+1); HPLC=90% @ 5.81 minutes (5/95 to 95/5 ACN/(0.1% TFA in water) over 10 minutes, Zorbax SB-Phenyl 4.6 mm×15 cm×5 micron, λ=254 nM.

reactant | oxone | 0.29 mmol, 0.18 g | OOS(=O)[O-].[K+]
reactant | 4-[4-(phenethylamino-methyl)-phenylsulfanyl]-benzamide | 0.14 mmol, 50 mg | C(CC1=CC=CC=C1)NCC1=CC=C(C=C1)SC1=CC=C(C(=O)N)C=C1 | C22H22N2OS
reactant | hydrochloric acid | 1N, 0.14 mL | Cl | ClH
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | water | 2 mL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4-[4-(Phenethylamino-methyl)-benzenesulfonyl]-benzamide | 15 mg | C(CC1=CC=CC=C1)NCC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C(=O)N)C=C1 | C22H22N2O3S
